US05306728
0.65 g of 3-[3-(5-bromopentyloxy)phenyl]thiophene, 0.37 g of potassium phthalimide and 0.14 g of potassium carbonate were dissolved in 5 ml of dimethylformamide, and the mixture was heated at 50° C. with stirring for 5 hours. Ethyl acetate and water were added, and the organic layer separated was worked up in a customary manner. The product was purified by silica gel column chromatography [hexane / ethyl acetate=7/1 →5/1] to give 0.36 g of N-[5-[3-(3-thienyl)phenoxy]pentyl] phthalimide as a colorless oil.

reactant | 3-[3-(5-bromopentyloxy)phenyl]thiophene | 0.65 g | BrCCCCCOC=1C=C(C=CC1)C1=CSC=C1 | C15H17BrOS
reactant | potassium phthalimide | 0.37 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[5-[3-(3-thienyl)phenoxy]pentyl] phthalimide | 0.36 g | S1C=C(C=C1)C=1C=C(OCCCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C23H21NO3S
